US07235537B2
Step C: Preparation of 2-amino-3-methylbutyric acid 2-{[6-(4-bromo-2-chlorophenylamino)-7-fluoro-3-methyl-3H-benzoimidazole-5-carbonyl]-aminooxy}-ethylester:
2-amino-3-methylbutyric acid 2-{[6-(4-bromo-2-chlorophenylamino)-7-fluoro-3-methyl-3H-benzoimidazole-5-carbonyl]-aminooxy}-ethylester trifluoroacetic acid salt (474 mg) was suspended in 80 mL of EtOAc. Addition of 15 mL of saturated aqueous NaHCO3 solution gave a biphasic mixture and dissolved most of the solids. Water (5 mL) was added to dissolve some turbidity seen in the aqueous layer. The layers were separated and the aqueous layer was extracted with 20 mL of EtOAc. The combined EtOAc layer was diluted with 50 mL of t-butyl methyl ether and washed with 2×25 mL of water, 10 mL of brine, dried with Na2SO4 and filtered. The organic layer was concentrated to a foam, concentrated with 2×10 mL of t-butyl methyl ether and dried under vacuum to give 340 mg (86%) of the free base as a white solid. 1H NMR (400 MHz, DMSO-d6 and D2O exchange) δ: 0.82 (d, J=6.7 Hz, 3H), 0.87 (d, J=6.7 Hz, 3H), 1.86 (m, 1H), 3.14 (d, J=5.0 Hz, 1H), 3.90 (s, 3H), 4.03 (m br, 2H), 4.24 (d br, 2H), 6.36 (dd, JH-H=8.8 Hz, JF-H=4.4 Hz virtual coupling, 1H), 7.26 (dd, J=8.8 Hz, 2.3 Hz, 1H), 7.60 (d, J=2.26 Hz, 1H), 7.75 (s, 1H), 8.40 (s, 1H); 19 F NMR (376 MHz, DMSO-d6 and D2O exchange) δ: −133.03.

reactant | 2-amino-3-methylbutyric acid 2-{[6-(4-bromo-2-chlorophenylamino)-7-fluoro-3-methyl-3H-benzoimidazole-5-carbonyl]-aminooxy}-ethylester trifluoroacetic acid salt | 474 mg | FC(C(=O)O)(F)F.BrC1=CC(=C(C=C1)NC=1C(=CC2=C(N=CN2C)C1F)C(=O)NOCCOC(C(C(C)C)N)=O)Cl
reactant | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
reactant | Water | 5 mL | O | H2O
solvent | EtOAc | 80 mL | CCOC(=O)C | C4H8O2
product | 2-amino-3-methylbutyric acid 2-{[6-(4-bromo-2-chlorophenylamino)-7-fluoro-3-methyl-3H-benzoimidazole-5-carbonyl]-aminooxy}-ethylester | 340 mg, 86% | BrC1=CC(=C(C=C1)NC=1C(=CC2=C(N=CN2C)C1F)C(=O)NOCCOC(C(C(C)C)N)=O)Cl | C22H24BrClFN5O4
